* RC Filter + Non-Inverting Amplifier

Vin in 0 AC 1

R1 in vfilt 10k
C1 vfilt 0 0.1u

* Op-amp model (ideal)
E1 out 0 vfilt vminus 1e6

R2 out vminus 100k
R3 vminus 0 10k

* Power (not needed for ideal op-amp)

.ac dec 100 1 10000
.print ac v(out)

.end